US07253192B2
F] Methanesulfonic acid 1-(3-trimethylsilanyl-prop-2-ynyl)-cyclopropylmethyl ester
In analogy to the procedure described in example 1G], [1-(3-trimethylsilanyl-prop-2-ynyl)-cyclopropyl]-methanol and methanesulfonyl chloride gave the title compound as yellow oil.

reactant | [1-(3-trimethylsilanyl-prop-2-ynyl)-cyclopropyl]-methanol | C[Si](C#CCC1(CC1)CO)(C)C | C10H18OSi
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 1-(3-trimethylsilanyl-prop-2-ynyl)-cyclopropylmethyl ester | C[Si](C#CCC1(CC1)COS(=O)(=O)C)(C)C | C11H20O3SSi
